Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old female with a PMH of HTN and HLD who presents with 
abdominal pain and celiac artery dissection.  Ms. ___ describes 
being in her usual state of health until approximately one week 
ago when she began to have occasional
episodes of transient abdominal pain and emesis. Last weekend 
the episodes become more prolonged until yesterday around 8:30am 
when the pain return and has been continuous since that time.  
The pain is in her upper abdomen in a band like region across 
the epigastrium, with occasional radiation to the back. The pain 
is accompanied by diaphoresis and nausea. She denies any 
alleviating
or aggravating factors and states that the pain is not 
exacerbated postprandially.
 
Past Medical History:
 -Hypertension
 -Hyperlipidemia
 -Uterine Fibroids
 
Social History:
___
Family History:
Mother and Father deceased ___ heart disease, history of 
hypertension
Brother with colon CA
___ sister with cervical cancer
 
Physical Exam:
VS: 98.4 69 114/71 18 97RA
Gen: Alert and oriented x 3, NAD. 
HEENT: Neck supple, full ROM, sclera anicteric
Resp: nl effort, no increased work of breathing 
CV: RRR
Abd: Soft, non-tender, non-distended. No rebound or guarding. 
negative ___. 
Ext: warm and well perfused. 2+ distal pulses bilaterally.
Skin: No jaundice 
 
Pertinent Results:
LABWORK:
___
IMAGING:

CT/ANGIO CHEST/ABDOMEN/PELVIS - ___ (OSH) - IMPRESSION:
-No evidence of pulmonary embolus.
-6 mm nodule in the right lung base along the major fissure
follow-up is recommended.  There is bibasilar atelectasis.
-Focal dissection near the origin of the celiac artery.  There
does appear to be flow distally in the hepatic and splenic
arteries.
-Right common internal and external iliac arteries are patent.
-Left common internal and external iliac arteries are patent.
-Ectatic arch of the aorta and abdominal aorta with mild
atherosclerotic change.
-Multiple cysts within the liver and kidney.
-The tail of the pancreas is enlarged at 3.5 cm recommend 
further
evaluation with dedicated assessment.

___: RUQ Abdominal ultrasound
1. Multiple hepatic cysts, the largest in the left lobe 
measuring up to 2.0 cm. 
2. Gallbladder sludge.  No cholelithiasis or other findings to 
suggest acute cholecystitis.  The CBD is normal caliber without 
sonographic evidence of choledocholithiasis. 
3. 4 mm nonobstructing right renal stone. 
4. Simple left renal cysts, the largest measuring up to 1.3 cm 
containing 
either coarse calcification or dependent layering internal 
debris. 
  
___ CTA abdomen:
IMPRESSION: 
1.  Compared to ___, unchanged dissection involving 
the proximal celiac artery without extension distally into its 
branches or proximally into the abdominal aorta. 
  
2. Multiple simple left renal cysts.  A single left renal cyst 
demonstrates Hounsfield units slightly above expected for a 
simple cyst and may represent a hemorrhagic cyst.  If clinically 
indicated, consider ultrasound for further evaluation. 

___ 08:15AM BLOOD AST-18 AlkPhos-62 TotBili-1.3 DirBili-0.2 
IndBili-1.1
 
Brief Hospital Course:
Ms. ___ was admitted to ___ on ___ with complaints of 
abdominal pain and found on imaging to have a celiac artery 
dissection. She was placed NPO and ordered for Aspirin 81mg 
daily. Her blood pressure was closely monitored and her home 
lisinopril dose (10mg daily) was increased to 10mg BID for 
better control. 

On hospital day #2 her labwork revealed an elevated bilirubin of 
1.9 and therefore a RUQ ultrasound was performed. This 
demonstrated biliary sludge only and no evidence of 
cholelithiasis, cholecystitis, or choledocholithiasis. 

On HD3, she underwent repeat CTA abdominal imaging which 
demonstrated stability of her celiac artery dissection. She was 
trialed with a regular diet--she initially experienced some 
persistent upper abdominal upper that resolved later in the day. 
She remained nontender on exam. Her labwork demonstrated 
persistent hyperbilirubinemia with TBR 2.1 ___s a new 
leukopenia with WBC 2.8. The medicine service was consulted 
given the constellation of lab anomalies and felt they were 
unrelated. The medicine service attributed the 
hyperbilirubinemia to likely ___ syndrome and recommended 
repeat CBC w/ diff as an outpatient in ___ days after discharge. 


On HD4, the patient continued to tolerate a regular diet and was 
discharged home in stable condition to continue aspirin therapy. 
Her labwork demonstrated a WBC of 3.5 and TBR improved to 1.3. 
She remained afebrile and hemodynamically stable throughout her 
stay. Her blood pressure was well controlled on lisinopril 10mg 
BID. She will follow up with her PCP ___ ___ days for repeat 
labwork as noted above, in vascular surgery clinic in 4 weeks 
with repeat CTA abd imaging, and with her PCP ___ ___ weeks to 
monitor her blood pressure control. 

 
Medications on Admission:
Lisinopril 10mg QD
Atorvastatin 10mg QD
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*2 
2.  Atorvastatin 10 mg PO QPM  
3.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
celiac artery dissection
indirect hyperbilirubinemia 
leukopenia of unknown etiology
biliary sludge

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital for abdominal 
pain and on imaging were found to have a celiac artery 
dissection and elevated bilirubin levels. You were started on 
Aspirin and your blood pressure was controlled on an increased 
dose of lisinopril (10mg twice a day).  You were also restarted 
on your protonix. You underwent a repeat CT scan prior to 
discharge which was stable and you tolerated a regular diet. You 
were seen by the medicine service for the elevated bilirubin 
levels and a low white blood cell count. They would like you to 
follow up with your primary care doctor in ___ days for repeat 
labwork. 
You had an otherwise ___ hospital stay and are ready 
for discharge. Please follow the recommendations below to ensure 
a speedy and uneventful recovery.

MEDICATION INSTRUCTIONS:

Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  

DIET:
 
Follow a well-balanced, heart healthy diet, with moderate 
restriction of salt and fat.

SMOKING:
 
If you smoke, it is very important for you to stop.  Research 
has shown that smoking makes vascular disease worse.  Talk to 
your primary care physician about ways to quit smoking.
 
The ___ Smokers' Helpline is a FREE and confidential 
way to get support and information to help you quit smoking.  
Call ___

CALLING FOR HELP
 
If you need help, please call us at ___.  Remember your 
doctor, or someone covering for your doctor is available 24 
hours a day, 7 days a week.  If you call during non-business 
hours, you will reach someone who can help you reach the 
vascular surgeon on call. 
 
To get help right away, call ___.
 
Call the surgeon right away for:
•headache that is not controlled with pain medication or 
headache that is getting worse
•fever of 101 degrees or more
•abdominal pain that is not relieved with medication, or pain 
that is getting worse instead of better

 
Followup Instructions:
___